US08802664B2
To a solution of 3-[benzothiazol-2-yl(1-methylpiperidin-4-yloxy)methyl]phenol (318 mg) in pyridine (74 μL) and dichloromethane (3 mL) cooled at −5° C. is added trifluoromethanesulfonic anhydride (152 μL). The mixture is stirred for 1 h, then allowed to warm to room temperature. The organic phase is washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The residue is purified by chromatography (gradiant heptane/ethyl acetate from 95/5 to 50/50) to give trifluoromethanesulfonic acid 3-[benzothiazol-2-yl(1-methylpiperidin-4-yloxy)methyl]phenyl ester used without further purification.

reactant | 3-[benzothiazol-2-yl(1-methylpiperidin-4-yloxy)methyl]phenol | 318 mg | S1C(=NC2=C1C=CC=C2)C(C=2C=C(C=CC2)O)OC2CCN(CC2)C | C20H22N2O2S
reactant | trifluoromethanesulfonic anhydride | 152 μL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | pyridine | 74 μL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | trifluoromethanesulfonic acid 3-[benzothiazol-2-yl(1-methylpiperidin-4-yloxy)methyl]phenyl ester | S1C(=NC2=C1C=CC=C2)C(C=2C=C(C=CC2)OS(=O)(=O)C(F)(F)F)OC2CCN(CC2)C | C21H21F3N2O4S2
